Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
gangrene of right long finger
 
Major Surgical or Invasive Procedure:
___ - right long finger amputation

 
History of Present Illness:
___ h/o CAD s/p CABG x4, multiple cardiac stents, ESRD on PD, 
DM2, LLE osteomyelitis and gangrene of multiple digits of the 
right hand s/p right ___ finger amputation on ___ presenting 
with painful right ___ digit. Patient states she began 
experiencing severe pain in the ___ digit of the right hand 
approximately 3 days ago. She describes sharp, constant ___ 
pain. The finger has become increasingly swollen and 
erythematous, with the distal portion of the finger now black 
and necrotic. The finger had previously had purple discoloration 
at the tip but was not necrotic on discharge on ___. She 
endorses nausea over the last two days, but denies fever, 
chills, diarrhea, constipation or other associated symptoms.
 
Past Medical History:
PMH: CAD s/p CABG and multiple cath/stents, DM2 c/b retinopathy 
and neuropathy, HTN, HL, dCHF, ESRD on PD, obesity, LLE charcot 
ankle c/b osteomyelitis ___ s/p debridement, dieulafoy's lesion 
c/b massive GI bleed

PSH: CABG x5v ___, PD catheter placement 

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
Vital Signs: Temp: 98.2 RR: 20 Pulse: 76 BP: 107/61  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
No hepatosplenomegally, No hernia, No AAA. 
Extremities: RUE: ___ digit amp site, well healin sutures in
place, ___ digit black, necrotic at distal tip, ___ digit
swollen, TTP, distal segment black and necrotic 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: D. Ulnar: D. 
LUE Radial: D. Ulnar: D. 
 
Pertinent Results:
___ 04:20PM   GLUCOSE-101* UREA N-67* CREAT-8.4*# 
SODIUM-133 POTASSIUM-5.2* CHLORIDE-89* TOTAL CO2-26 ANION 
GAP-23*
___ 04:20PM   estGFR-Using this
___ 04:20PM   CALCIUM-9.5 PHOSPHATE-6.5*# MAGNESIUM-2.1
___ 04:20PM   %HbA1c-6.0* eAG-126*
___ 04:20PM   WBC-15.9* RBC-3.12* HGB-9.6* HCT-30.3* 
MCV-97# MCH-30.9 MCHC-31.8 RDW-16.8*
___ 04:20PM   PLT COUNT-629*#
___ 04:20PM   ___ PTT-34.6 ___

Chemistries 

___ 04:20PM BLOOD Glucose-101* UreaN-67* Creat-8.4*# Na-133 
K-5.2* Cl-89* HCO3-26 AnGap-23*
___ 08:20AM BLOOD Glucose-127* UreaN-61* Creat-8.5* Na-130* 
K-4.5 Cl-87* HCO3-26 AnGap-22*
___ 07:30AM BLOOD Glucose-104* UreaN-56* Creat-8.0* Na-129* 
K-4.5 Cl-86* HCO3-24 AnGap-24*
___ 03:19AM BLOOD Glucose-127* UreaN-50* Creat-7.8* Na-129* 
K-4.3 Cl-86* HCO3-25 AnGap-22*
___ 07:25AM BLOOD Glucose-168* UreaN-46* Creat-7.4* Na-129* 
K-3.9 Cl-86* HCO3-27 AnGap-20
___ 07:57AM BLOOD Glucose-119* UreaN-40* Creat-7.1* Na-129* 
K-3.5 Cl-88* HCO3-29 AnGap-16
___ 07:46AM BLOOD Glucose-117* UreaN-38* Creat-7.3* Na-128* 
K-3.6 Cl-87* HCO3-25 AnGap-20
___ 04:00AM BLOOD Glucose-105* UreaN-39* Creat-7.3* Na-130* 
K-3.9 Cl-92* HCO3-25 AnGap-17

CBCs

___ 04:20PM BLOOD WBC-15.9* RBC-3.12* Hgb-9.6* Hct-30.3* 
MCV-97# MCH-30.9 MCHC-31.8 RDW-16.8* Plt ___
___ 08:20AM BLOOD WBC-16.3* RBC-2.90* Hgb-9.1* Hct-28.6* 
MCV-99* MCH-31.3 MCHC-31.7 RDW-17.0* Plt ___
___ 07:30AM BLOOD WBC-13.9* Hct-29.4* Plt ___
___ 03:19AM BLOOD WBC-16.4* RBC-2.97* Hgb-8.9* Hct-29.0* 
MCV-98 MCH-30.0 MCHC-30.8* RDW-16.9* Plt ___
___ 07:25AM BLOOD WBC-17.4* RBC-2.97* Hgb-8.8* Hct-28.5* 
MCV-96 MCH-29.7 MCHC-30.9* RDW-16.5* Plt ___
___ 07:57AM BLOOD WBC-16.4* RBC-3.00* Hgb-9.2* Hct-29.2* 
MCV-97 MCH-30.7 MCHC-31.7 RDW-16.6* Plt ___
___ 07:46AM BLOOD WBC-18.0* RBC-2.86* Hgb-8.8* Hct-27.5* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-16.6* Plt ___
___ 04:00AM BLOOD WBC-16.9* RBC-2.95* Hgb-9.0* Hct-28.4* 
MCV-96 MCH-30.4 MCHC-31.5 RDW-16.4* Plt ___

LUE U/S ___ for LUE swelling: no DVT
 
Brief Hospital Course:
___ admitted on ___ due to worsening right long finger 
gangrene.  She empirically was started on broad spectrum 
antibiotics.  She was also started on a heparin drip.  Her 
hospital course was realtively benign.  On ___ she developed 
LUE swelling, but an U/S showed no DVT.  As such, warm 
compresses and limb elevation were applied to the affected area 
with good effect.

By ___, it was clear that the demarcation had completed.  As 
such, we amputated her right long finger all the way to the 
metacarpophalangeal joint space.  She tolerated the conscious 
sedation and procedure well, and was shortly thereafter brought 
to the PACU and subsequently to the floor.  Her diet was 
advanced, and she had good pain control.  We resumed her heparin 
drip and commenced warfarin therapy.  She was not a candidate 
for enoxaparin, and so we had to keep her here until she became 
therapeutic on warfarin.  Once she achieved her goal INR, she 
was discharged home in stable condition with instructions to 
follow up with Dr. ___ as an outpatient in 2 weeks time.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Ezetimibe 10 mg PO DAILY 
3. Ferrous GLUCONATE 324 mg PO DAILY 
4. Gabapentin 100 mg PO BID 
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
6. Glargine 12 Units Breakfast
Glargine 36 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Lorazepam 1 mg PO DAILY:PRN anxiety 
8. Metoclopramide 5 mg PO QIDACHS 
9. Midodrine 10 mg PO BID 
10. Nephrocaps 1 CAP PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. Rosuvastatin Calcium 40 mg PO DAILY 
13. Sertraline 100 mg PO DAILY 
14. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
15. Minocycline 100 mg PO BID 
16. Docusate Sodium 100 mg PO BID 
17. Nystatin Cream 1 Appl TP BID 
18. Senna 1 TAB PO BID:PRN constipation 
19. Gentamicin 0.1% Cream 1 Appl TP TID 
20. Epoetin Alfa 30,000 U SC EVERY 2 WEEKS 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Docusate Sodium 100 mg PO BID 
3. Epoetin Alfa 30,000 U SC EVERY 2 WEEKS 
4. Ezetimibe 10 mg PO DAILY 
5. Ferrous GLUCONATE 324 mg PO DAILY 
6. Gabapentin 100 mg PO BID 
7. Gentamicin 0.1% Cream 1 Appl TP TID 
8. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every ___ hours 
Disp #*40 Tablet Refills:*0
9. Lorazepam 1 mg PO DAILY:PRN anxiety 
10. Metoclopramide 5 mg PO QIDACHS 
11. Midodrine 10 mg PO BID 
12. Nephrocaps 1 CAP PO DAILY 
13. Nystatin Cream 1 Appl TP BID 
14. Omeprazole 40 mg PO DAILY 
15. Rosuvastatin Calcium 40 mg PO DAILY 
16. Senna 1 TAB PO BID:PRN constipation 
17. Sertraline 100 mg PO DAILY 
18. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
19. Amoxicillin-Clavulanic Acid ___ mg PO Q24H Duration: 5 Days 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth every 24 hours Disp #*5 Tablet Refills:*0
20. Bisacodyl 10 mg PO BID 
21. Acetaminophen 650 mg PO Q6H pain 
22. Glargine 12 Units Breakfast
Glargine 36 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
23. Warfarin 3 mg PO DAILY16 
  
RX *warfarin 3 mg 1 tablet(s) by mouth daily at 4 pm Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
wet gangrene of right long finger
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mrs. ___, you were admitted for a worsening infection in 
your right long finger, which we had to amputate.  You recovered 
from this procedure very nicely and are ready to go home.  
Please continue to take your warfarin and be sure to follow up 
with your primary care provider for INR checks.  Taking care of 
you was our pleasure; we look forward to seeing you as an 
outpatient.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___